US05942505
40 liters of a chloroform solution containing 5.0 kg of 5-isoquinolinesulfonyl chloride was added dropwise to 40 liters of a chloroform solution containing 8.8 kg of homopiperazine over 1 hour while cooling with ice, to obtain a mixture. Subsequently, the obtained mixture was stirred for 1 hour while cooling with ice, to effect a reaction and then the resultant reaction mixture was subjected to extraction with a 2N aqueous solution of HCl, followed by separation of an aqueous phase. The aqueous phase was adjusted to a pH value of 10 with a 10% aqueous solution of NaOH to thereby obtain a solution having a pH value of 10. The obtained solution was subjected to extraction with 80 liters of chloroform, followed by separation of a chloroform phase. The resultant chloroform phase was washed with water and then dried over anhydrous sodium sulfate, and subsequently, the solvent was removed by distillation under reduced pressure to obtain a residue. The obtained residue was subjected to column chromatography using 150 kg of silica gel (Wakogel C-200, manufactured and sold by Wako Pure Chemical Industries, Ltd., Japan) and a mixed solvent of methanol and chloroform (5 v/v % methanol) as a developing solvent, and purified to obtain 6.01 kg of fasudil (yield 89%). The results of elemental analysis of fasudil: found (calculated) C: 57.59 (57.71), H: 5.92 (5.88), N: 14.29 (14.42), S: 10.83 (11.00) (wt %)

reactant | 5-isoquinolinesulfonyl chloride | 5.0 kg | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | homopiperazine | 8.8 kg | N1CCNCCC1 | C5H12N2
solvent | chloroform | 40 liters | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 40 liters | C(Cl)(Cl)Cl | CHCl3
product | fasudil | 6.01 kg, yield 89% | C=1C=C2C=NC=CC2=C(C1)S(=O)(=O)N3CCCNCC3 | C14H17N3O2S
